US05840732
Synthesis of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione
To a solution of 14.08 g (50 mmol) of 3-[4-(2-aminopyridin-3-yloxy)butyl]thiazolidine-2,4-dione in 150 ml of ethanol, 50 ml of a 40% chloroacetaldehyde solution was added at 60° C., followed by refluxing for 2 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: n-hexane/residue=1/4) to yield 10.04 g (65.8%, light yellow crystal) of the desired product.

reactant | 3-[4-(2-aminopyridin-3-yloxy)butyl]thiazolidine-2,4-dione | 50 mmol, 14.08 g | NC1=NC=CC=C1OCCCCN1C(SCC1=O)=O | C12H15N3O3S
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]-thiazolidine-2,4-dione | N=1C=CN2C1C(=CC=C2)OCCCCN2C(SCC2=O)=O | C14H15N3O3S
